US07414142B2
5-[(1E)-1-(hydroxyimino)-2,3-dihydro-1H-inden-5-yl]-1-methyl-1H-pyrrole-2-carbonitrile
The title compound was prepared from 1-methyl-5-(1-oxo-2,3-dihydro-1H-inden-5-yl)-1H-pyrrole-2-carbonitrile and hydroxylamine hydrochloride according to the procedure described in example 1. MS (ESI) m/z 252; HRMS: calcd for C15H13N3O+H+, 252.11314; found (ESI, [M+H]+), 252.1133

reactant | 1-methyl-5-(1-oxo-2,3-dihydro-1H-inden-5-yl)-1H-pyrrole-2-carbonitrile | CN1C(=CC=C1C=1C=C2CCC(C2=CC1)=O)C#N | C15H12N2O
reactant | hydroxylamine hydrochloride | Cl.NO
product | 5-[(1E)-1-(hydroxyimino)-2,3-dihydro-1H-inden-5-yl]-1-methyl-1H-pyrrole-2-carbonitrile | O\N=C\1/CCC2=CC(=CC=C12)C1=CC=C(N1C)C#N | C15H13N3O
